US07687627B2
(S)-N-{3-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-3,5-difluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide
The compound was prepared by reacting (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3,5-difluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide (0.5 mmol), ethylene glycol (0.5 mmol), p-toluene sulfonic acid (0.3 mmol) in toluene and by purifying on silica gel column chromatography to provide title compound in 77% yield.

reactant | (S)-N-{3-[4-(4-oxo-piperidin-1-yl)-3,5-difluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 0.5 mmol | O=C1CCN(CC1)C1=C(C=C(C=C1F)N1C(O[C@H](C1)CNC(C)=O)=O)F | C17H19F2N3O4
reactant | ethylene glycol | 0.5 mmol | C(CO)O | C2H6O2
reactant | p-toluene sulfonic acid | 0.3 mmol | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | (S)-N-{3-[4-(1,4-dioxa-8-aza-spiro[4.5]dec-8-yl)-3,5-difluorophenyl]-2-oxo-oxazolidin-5-ylmethyl}-acetamide | 77% yield | O1CCOC12CCN(CC2)C2=C(C=C(C=C2F)N2C(O[C@H](C2)CNC(C)=O)=O)F | C19H23F2N3O5
